US05346913
To a stirred solution of 5,5-dimethylhydantoin (10 g, 78 mmole) in methyl ethyl ketone (500 mL) at room temperature was added potassium carbonate (13 g, 94.1 mmole), followed by propargyl bromide (14 g, 80% in toluene, 94.1 mmole). The reaction mixture was then refluxed for 2.5 hr. The mixture was cooled to room temperature and the solid was filtered by suction filtration. The filtrate was concentrated on a rotary evaporator to give 12.5 g (96%) of 3-(2-propynyl)-5,5-dimethylhydantoin as a yellow solid, mp=156°-160° C. An NMR spectrum showed the desired product with a purity about 95%. This intermediate was subjected to the next step without further purification.

reactant | 5,5-dimethylhydantoin | 78 mmole, 10 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | potassium carbonate | 94.1 mmole, 13 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 94.1 mmole, 14 g | C(C#C)Br | C3H3Br
solvent | methyl ethyl ketone | 500 mL | C(C)C(=O)C | C4H8O
product | 3-(2-propynyl)-5,5-dimethylhydantoin | 12.5 g, 96% | C(C#C)N1C(NC(C1=O)(C)C)=O | C8H10N2O2
